Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, confusion
 
Major Surgical or Invasive Procedure:
___ Donor after cardiac death liver transplant, back
table preparation of deceased donor and liver allograft.

 
History of Present Illness:
___ male with h/o Hepatitic C and ?alcohol induced cirrhosis 
(MELD 24, CHILDS C on transplant list) with h/o of ascites and 
encephalopathy currently on sofosbuvir and ribavarin presenting 
with weakness and confusion. He was recently discharged on ___ 
after having therapuetic paracenteses x2 and Dobhoff placement. 
Since then, he has been on TFs 24hr/day at 55cc/hr, which he has 
been tolerating well. He initially had more energy after the TFs 
started, but for the past week, his weakness has been worsening, 
becoming most marked in last 36 hours. Patient states he has 
difficulty sitting up on his own and feels more unstable on his 
feet. Last night, he fell backwards from weakness but did not 
hit the floor. He denies any other falls. He notes some tremor 
and denies any presyncopal symptoms preceding event. Patient 
also notes he has been tolerating very little PO intake due to 
lack of appetite in the setting of increasing abdominal 
distension. His wife has also been noticing "slower mentation" 
for the last ___ut no confusion. +BMs - about 6 
episodes of diarrhea every day. No abdominal pain and no urinary 
symptoms.  
In the ED initial vitals were: 0 98.2 50 125/61 18 99%  
- Physical exam showed tense and distended abdomen with no 
tenderness and normoactive bowel sounds.  
- The patient underwent diagnostic paracentesis which showed 
68wbc, 1 poly, 1.2 protein  
- Labs were significant for lactate 1.2, Cr 1.9 (baseline 0.9), 
AST83, ALT52, ALP123, Tbili 2.8, Alb 3.2, h/h 9.___.5.  
- Patient was given 75g of 25% albumin.  
Vitals prior to transfer were: 98.8 54 111/45 13 96% RA  
On the floor, patient states he would like some icecream though 
he has not had an appetite recently. He has no compliants other 
than generally feeling weak.  
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
1. HCV mediated cirrhosis, Child's C 12, MELD at 24,  
complicated in the past by ascites and coagulopathy  
2. Genotype 3 hepatitis C, currently in the midst of a 24-week  
course of sofosbuvir and ribavirin.  
3. Moderate malnutrition with albumin of 3.2 (improved from 2.5) 
and significant sarcopenia.  
4. Inguinal hernia repairs in the ___.  
5. Heart murmur.  
6. Tonsillectomy in the ___.  

 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals - T: 98 BP:109/62 HR:54 RR:18 02 sat: 97%RA  
GENERAL: NAD, oriented X 3 (person, ___, ___, appears 
fatigued, eyes closed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, dry mmm, poor lower 
dentition  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: decreased breath sounds throughout, no w/r/r  
ABDOMEN: distended, +fluid wave, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: moving all extremities well, no cyanosis or 
clubbing; 2+ pitting edema in b/l ___ extending to knees  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: spider angiomata noted throughout entire anterior chest  

 
Pertinent Results:
Labs on Admission: ___
WBC-6.6 RBC-2.54* Hgb-9.4* Hct-28.5* MCV-112* MCH-37.2* 
MCHC-33.1 RDW-15.7* Plt ___ PTT-49.7* ___
Glucose-98 UreaN-69* Creat-1.9* Na-133 K-4.3 Cl-96 HCO3-32 
AnGap-9
ALT-52* AST-83* AlkPhos-123 TotBili-2.8*
Albumin-3.2*
Calcium-8.9 Phos-4.6*# Mg-3.2*
.
___ HBsAg-NEGATIVE HBsAb-POSITIVE HBcAb-NEGATIVE HAV 
Ab-POSITIVE
         HIV Ab-NEGATIVE
.
Labs at discharge: ___
WBC-8.1 RBC-3.10* Hgb-9.8* Hct-29.7* MCV-96 MCH-31.5 MCHC-32.9 
RDW-18.8* Plt ___ PTT-26.1 ___
Glucose-98 UreaN-24* Creat-1.2 Na-143 K-5.3* Cl-105 HCO3-31 
AnGap-12
ALT-113* AST-44* AlkPhos-89 TotBili-1.2
Calcium-8.5 Phos-4.5
Cyclspr-___ y/o male initially admitted to the medical service with 
weakness, and notes increasing ascites. Creatinine was also 
noted to be 1.9.
.
Renal ultrasound was performed showing normal native kidneys. 
Duplex done on liver showed patent vasculature, and also that he 
had massive ascites.
A paracentesis was due to be performed, but on HD 4, the patient 
was offered a donor liver, and he was taken to the OR.

Patient was taken to the OR with Dr ___ and Dr ___ 
___. At the time of surgery 6.5 liters of clear ascites was 
taken off. The hepatectomy was without major complication. The 
implanted liver reperfused normally. 
At the time of transplant he received 5 units RBCs, 4 units FFP, 
one unit of platelets, and had an estimated one liter blood 
loss.
He was stable at the end of the case and transferred to SICU, 
still intubated.

At the time of surgery he received a gram of mycophenolate pre 
op, and this was continued at one gram BID. He received 500 mg 
Solu-Medrol intra-op. Standard IV steroid taper was followed, 
however on POD 11, the PO prednisone was dropped to 10 mg daily 
due to concern for mental status changes. He started on Tacro on 
the evening of POD 0, and this was continued monitoring daily 
levels and adjusting dose accordingly.
However, worsening mental status on POD 7 was impetus to 
discontinue the tacro and switch him to cyclosporine starting 
the following day.

Following the transplant surgery, the patient was extubated on 
POD 1. He was restarted on tube feeds, given a clear diet, JP 
drains were sero-sanguinous. He did receive 2 units of RBCs, 1 
FFP, 1 platelet and 2 cryo.
Protocol ultrasound showed Patent hepatic vasculature with 
appropriate waveforms.

Patient was transferred to the regular surgical floor on POD 2. 
He continued to tolerate tube feeds. Had + flatus. Foley 
catheter was d/c'd and he voided without difficulty.
Patient was seen by ___ for new onset hyperglycemia, 
ultimately was sent out on an insulin sliding scale with an 
insulin pen.

Medial JP was removed on POD 4
He was seen and evaluated by ___, they recommended home with ___.

Creatinine was noted to still be elevated following liver 
transplant. Over the course of the hospitalization, the 
creatinine eventually came back down to 1.0  He was voiding 
adequate urine.

Once his bowel started functioning again, he actually started to 
have significant diarrhea, up to 6 bowel movements daily and 
very loose. Stool for C diff was negative. After nutrition 
review, his formula was changed to Pulmocare, and this has been 
more well tolerated, with ___ but more formed bowel movements 
daily. We also changed him from MMF to Myfortic.

Patient was being setup for discharge, but on about POD 7, he 
was seeming more confused. At night was when it was worse, and 
where it was first noted, and then it was occurring during the 
day. It was decided to stop the tacro, wait a day and then start 
cyclosporine.
It took a few days, but mental status started to clear, and the 
patient was deemed safe to go home on POD 12.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 3 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Rifaximin 550 mg PO BID 
5. Sertraline 100 mg PO DAILY 
6. Sofosbuvir 400 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Nadolol 40 mg PO DAILY 
9. Lactulose 15 mL PO Q8H:PRN constipation/confusion 
10. Amiloride HCl 5 mg PO DAILY 
11. Furosemide 40 mg PO DAILY 
12. Ribavirin 600 mg PO QAM 
13. Ribavirin 400 mg PO QPM 

 
Discharge Medications:
1. FoLIC Acid 3 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*5
6. Fluconazole 400 mg PO Q24H 
7. Glargine 18 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [FreeStyle Lite Strips]  1 Strip four 
times a day Disp #*1 Package Refills:*5
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) 18 
units Daily 14 Units before BKFT; 4 Units before BED; Disp #*2 
Syringe Refills:*3
RX *insulin lispro [Humalog KwikPen] 100 unit/mL 16 units SC Up 
to 16 Units QID per sliding scale Disp #*2 Syringe Refills:*3
RX *lancets 30 gauge 1 Lancet four times a day Disp #*1 Box 
Refills:*5
8. Mycophenolate Sodium ___ 720 mg PO BID 
RX *mycophenolate sodium 360 mg 2 tablet(s) by mouth twice a day 
Disp #*120 Tablet Refills:*5
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 4 hours Disp #*30 
Tablet Refills:*0
10. PredniSONE 10 mg PO DAILY 
Follow transplant clinic taper 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Insulin Pen Needles
31 gauge ___ Insulin pen needle
Disp: 1 box of 100
Refill: 12

14. Tube feeding order
Tubefeeding: Pulmocare Full strength; 
Goal rate: 55 ml/hr
Continuous feed
ICD9: 263.8
Dispense 1 month supply with 5 refills
15. ValGANCIclovir 900 mg PO Q24H 
16. Insulin Pen Needles
31 gauge ___ Insulin pen needle
Disp: 1 box of 100
Refill: 12

17. Docusate Sodium 100 mg PO BID 
Do not take if having multiple or loose bowel movements 
18. Senna 8.6 mg PO BID 
Hold for loose stools 
19. CycloSPORINE (Neoral) MODIFIED 200 mg PO Q12H 
RX *cyclosporine modified [Neoral] 100 mg 2 capsule(s) by mouth 
twice a day Disp #*120 Capsule Refills:*5
20. Sodium Polystyrene Sulfonate 30 gm PO ASDIR 
Give only as directed by transplant clinic for hyperkalemia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
HCV cirrhosis
HCC
Malnutrition
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
___ of ___ and Home Solution services resumed. 

Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.

You will have labwork drawn twice weekly at ___ 
Lab ___ Building). One of the lab draw days 
will correspond with your Transplant Office follow up. 

On the days you have your labs drawn, do not take your Tacro 
until your labs are drawn. Bring your Tacro with you so you may 
take your medication as soon as your labwork has been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower shower with soap and water, rinse, pat dry. No 
rubbing, no lotions or powder near the incision. 

Leave the incision open to the air. The staples are removed 
approximately 3 weeks following your transplant.
No tub baths or swimming

No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals. 
Continue tube feeds as ordered. 

Check your blood sugars and blood pressure at home. Continue 
using your insulin pump as you have been directed.

Report consistently elevated values to the transplant clinic

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

Refer to your transplant binder as needed, and always call the 
transplant clinic with any questions you may have
 
Followup Instructions:
___